US05098919
Isopropyl 4-Methyl-2-thioxopyrrolidine-3-carboxylate
To 5.0 g of ethyl 4-methyl-2-thioxopyrrolidine-3-carboxylate were added 300 ml of isopropyl alcohol and 11.4 g of titanium tetraisopropoxide. The resulting mixture was heated under reflux for 24 hours. After distilling off the excessive isopropyl alcohol under reduced pressure, water and chloroform were added to the residue and insoluble matters were filtered off. The chloroform layer was washed with water and a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After distilling off the chloroform, 5.0 g of the title compound was obtained.

reactant | ethyl 4-methyl-2-thioxopyrrolidine-3-carboxylate | 5.0 g | CC1C(C(NC1)=S)C(=O)OCC | C8H13NO2S
reactant | isopropyl alcohol | 300 ml | C(C)(C)O | C3H8O
catalyst | titanium tetraisopropoxide | 11.4 g | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | Isopropyl 4-Methyl-2-thioxopyrrolidine-3-carboxylate | 5.0 g | CC1C(C(NC1)=S)C(=O)OC(C)C | C9H15NO2S
